US04962108
1-Cyclopropyl-7-(6,8-diazabicyclo[3.2.2]non-6-yl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 0.71 g (2.5 mmol) of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.54 g (2.7 mmol) of 6,8-diazabicyclo[3.2.2]nonane, dihydrochloride, 1.13 ml (7.5 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene and 15 ml of acetonitrile was heated under reflux for 1.5 hr. The reaction mixture was stirred overnight at room temperature and filtered to obtain 0.40 g of the title compound, mp 268°-271° dec.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.5 mmol, 0.71 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 6,8-diazabicyclo[3.2.2]nonane, dihydrochloride | 2.7 mmol, 0.54 g | Cl.Cl.C12CCCC(NC1)CN2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.5 mmol, 1.13 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-Cyclopropyl-7-(6,8-diazabicyclo[3.2.2]non-6-yl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.40 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1C2CCCC(C1)NC2)F)=O)C(=O)O | C20H21F2N3O3
